US09227984B2
2-Amino-5-methylthieno[2,3-d]pyrimidin-4(1H)-one
A mixture of ethyl 2-amino-4-methylthiophene-3-carboxylate (2.0 g, 11.7 mmol), chloroformamidine hydrochloride (3.357 g, 29.0 mmol) and dimethylsulfone (5.489 g, 58.4 mmol) was heated at 135° C. for 45 minutes. Water was added and the mixture was cooled down to room temperature. An aqueous ammonia solution was added to adjust the solution to pH 9. The precipitate was filtered off, yielding the title compound (1.863 g) as a white powder. 13C NMR δ (75 MHz, DMSO-d6) 168.98, 159.12, 153.21, 133.26, 114.37, 110.81, 16.35. MS (m/z) 182 [M+H]+.

reactant | ethyl 2-amino-4-methylthiophene-3-carboxylate | 11.7 mmol, 2.0 g | NC=1SC=C(C1C(=O)OCC)C | C8H11NO2S
reactant | chloroformamidine hydrochloride | 29.0 mmol, 3.357 g | Cl.ClC(=N)N
reactant | dimethylsulfone | 58.4 mmol, 5.489 g | CS(=O)(=O)C | C2H6O2S
reactant | ammonia | N | H3N
solvent | Water | O | H2O
product | 2-Amino-5-methylthieno[2,3-d]pyrimidin-4(1H)-one | 1.863 g | NC1=NC(C2=C(N1)SC=C2C)=O | C7H7N3OS
